US06444668B1
6-(3-Fluoro-4-methoxy-phenyl)4,4-dimethyl-1,4-dihydro-benzo[d][1,3]-oxazin-2-one
Prepared according to procedure B from 4-bromo-2-fluoroanisole and (1,4-dihydro-4,4-dimethyl-2-oxo-2H-3,1-benzoxazin-6-yl)boronic acid. White solid: mp 210-211° C. 1H-NMR (DMSO-d6), δ10.27(s,1H), 7.52-7.60 (m,3H), 7.45(d,1H, J=8.6 Hz), 7.22 (t, 1H; J=8.9 Hz), 6.94(d,1H, J=8.8 Hz), 3.87(s,3H), 1.66(s, 6H). MS [M−H]− m/z=300. {tilde over ( )} Anal. Calc. For C17H16FNO3: C, 67.76, H, 5.35, N, 4.65. Found: C,67.88, H,5.39, N, 4.70.

reactant | 4-bromo-2-fluoroanisole | BrC1=CC(=C(C=C1)OC)F | C7H6BrFO
reactant | (1,4-dihydro-4,4-dimethyl-2-oxo-2H-3,1-benzoxazin-6-yl)boronic acid | CC1(OC(NC2=C1C=C(C=C2)B(O)O)=O)C | C10H12BNO4
product | 6-(3-Fluoro-4-methoxy-phenyl)4,4-dimethyl-1,4-dihydro-benzo[d][1,3]-oxazin-2-one | FC=1C=C(C=CC1OC)C1=CC2=C(NC(OC2(C)C)=O)C=C1 | C17H16FNO3
